US08629147B2
Sulfuric acid (10 mL) was added to a solution of 4-amino-2-fluoro-5-nitrobenzoic acid ammoniate (10 g, 46 mmol) in methanol (100 mL) and refluxed for 30 h. The solution was cooled to ambient temperature and the solid thus obtained was collected by filtration, washed with hexanes, and dried in vacuo at 40° C. for 14 h to afford the desired methyl 4-amino-2-fluoro-5-nitrobenzoate as a yellow solid (6.84 g, 31.9 mmol, 69%). 1H NMR (MeOD) δ 8.62-8.58 (m, 1H), 6.63-6.59 (m, 1H).

reactant | Sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | 4-amino-2-fluoro-5-nitrobenzoic acid | 46 mmol, 10 g | NC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])F | C7H5FN2O4
reactant | methanol | 100 mL | CO | CH4O
product | methyl 4-amino-2-fluoro-5-nitrobenzoate | 31.9 mmol, 6.84 g, 69% | NC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])F | C8H7FN2O4
